US07923450B2
b) [3-Methoxy-4-(4-methyl-imidazol-1-yl)-phenyl]-(8-methyl-8-phenyl-5,6,7,8-tetrahydro-quinazolin-2-yl)-amine
A mixture of 6-[1-dimethylamino-methylidene]-2-methyl-2-phenylcyclohexanone (103 mg, 0.42 mmol), N-[3-methoxy-4-(4-methyl-imidazol-1-yl)-phenyl]-guanidine dinitrate (157 mg, 0.42 mmol), and triethylamine (0.29 mL, 2.1 mmol) in ethanol (1 mL) was heated at reflux for 18 h. The mixture was cooled, diluted with ethyl acetate (30 mL) and then washed with saturated aqueous sodium carbonate solution (10 mL) and with brine (10 mL). The organic layer was dried over sodium sulfate and evaporated under reduced pressure. The residual material was purified by column chromatography on silica gel using dichloromethane/methanol (20:1 v/v) as eluent to give the title compound (34 mg, 19%). MS ISP (m/e): 426.1 [(M+H)+]. mp 207-209° C.

reactant | 6-[1-dimethylamino-methylidene]-2-methyl-2-phenylcyclohexanone | 0.42 mmol, 103 mg | CN(C=C1CCCC(C1=O)(C1=CC=CC=C1)C)C | C16H21NO
reactant | N-[3-methoxy-4-(4-methyl-imidazol-1-yl)-phenyl]-guanidine dinitrate | 0.42 mmol, 157 mg | [N+](=O)(O)[O-].[N+](=O)(O)[O-].COC=1C=C(C=CC1N1C=NC(=C1)C)NC(=N)N
reactant | triethylamine | 2.1 mmol, 0.29 mL | C(C)N(CC)CC | C6H15N
solvent | ethanol | 1 mL | C(C)O | C2H6O
solvent | ethyl acetate | 30 mL | C(C)(=O)OCC | C4H8O2
product | [3-Methoxy-4-(4-methyl-imidazol-1-yl)-phenyl]-(8-methyl-8-phenyl-5,6,7,8-tetrahydro-quinazolin-2-yl)-amine | 34 mg, 19% | COC=1C=C(C=CC1N1C=NC(=C1)C)NC1=NC=2C(CCCC2C=N1)(C1=CC=CC=C1)C | C26H27N5O
